US05864039
4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (2 g) as starting compound and 4-nitrobenzaldehyde (0.87 g) were reacted and treated in the same manner as in Example 121 to give 2.3 g of 4-amino-5-chloro-2-methoxy-N-((1-(5-(4-nitrobenzylamino)pentyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
reactant | 4-nitrobenzaldehyde | 0.87 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-(4-nitrobenzylamino)pentyl)piperidin-4-yl)methyl)benzamide | 2.3 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC=C(C=C2)[N+](=O)[O-])C=C1Cl)OC | C26H36ClN5O4
